US05703224
Step 1 2,5-Anhydro-1-deoxy-1- (N-benzoyladenin-9-yl)-D-allitol
2,5-Anhydro-1-deoxy-1- (adenin-9-yl) -D-allitol (916 mg) was subjected to azeotropic dehydration with anhydrous pyridine and then suspended in 15 ml of anhydrous pyridine. To the suspension was added 2.75 g of benzoyl chloride dropwise under ice-cooling. After the mixture was reacted at room temperature for 2 hours, it was poured into a mixture of 114 g of ice, 9 g of sodium hydrogen carbonate and 100 ml of chloroform and extracted with chloroform. The chloroform layer was concentrated and ethanol/pyridine was added to the residue. Then, 13 ml of 2N-sodium hydroxide solution and 13 ml of ethanol were added under water-cooling and the reaction was carried out at room temperature for 30 minutes. This reaction mixture was neutralized by adding about 13 ml of 2N-hydrochloric acid under cooling and concentrated under reduced pressure. The residue was washed with ether and the aqueous layer was concentrated under reduced pressure. The residue was purified by reversed phase column chromatography (methanol/water) to provide 1.28 g of the desirable compound. m.p. 85°-90° C.

reactant | 2,5-Anhydro-1-deoxy-1- (adenin-9-yl) -D-allitol | 916 mg | N1=CN=C2N(C=NC2=C1N)C[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO | C11H15N5O4
reactant | benzoyl chloride | 2.75 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydrogen carbonate | 9 g | C(O)([O-])=O.[Na+]
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 2,5-Anhydro-1-deoxy-1- (N-benzoyladenin-9-yl)-D-allitol | 1.28 g | C(C1=CC=CC=C1)(=O)NC1=C2N=CN(C2=NC=N1)C[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO | C18H19N5O5
